US05929094
a) 2-Bromo-4-aminoanisole
A mixture of 670 mg (2.9 mmol) of 2-bromo-4-nitroanisole and 1.20 g (21.1. mmol) of iron powder in 10 mL of 1:1 v/v HOAc/H2O was heated at 80° C. for 1.5 h. The mixture was cooled and filtered onto a pad of Celite. The flask and filtered solids were rinsed with 100 mL of EtOAc and 100 mL of H2O. The filtrate was transfered to a separatory fumel and the layers were separated. The organic layer was washed with 50 mL of sat'd NaHCO3, 50 mL sat'd NaCl, dried over MgSO4 and concentrated in vacuo. Flash chromatography on 25 g of silica gel using 3:2 v/v hexanes/ether as the eluant afforded 504 mg (86%) of the title compound as an oil.

reactant | 2-bromo-4-nitroanisole | 2.9 mmol, 670 mg | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6BrNO3
catalyst | iron | 1.20 g | [Fe] | Fe
solvent | HOAc H2O | CC(=O)O.O
product | 2-Bromo-4-aminoanisole | 504 mg, 86% | BrC1=C(C=CC(=C1)N)OC | C7H8BrNO
